US04000275
3,8,9-Trichloro-6-(n-propyl)benzimidazo[2,1-b]quinazolin-12(6H)one is prepared with 3,8,9-trichlorobenzimidazo[2,1-b]-quinazolin-12(6H)one and n-propyl bromide.

reactant | 3,8,9-trichlorobenzimidazo[2,1-b]-quinazolin-12(6H)one | ClC1=CC=C2C(N3C(=NC2=C1)NC1=C3C=C(C(=C1)Cl)Cl)=O | C14H6Cl3N3O
reactant | n-propyl bromide | CCCBr | C3H7Br
product | 3,8,9-Trichloro-6-(n-propyl)benzimidazo[2,1-b]quinazolin-12(6H)one | ClC1=CC=C2C(N3C(=NC2=C1)N(C1=C3C=C(C(=C1)Cl)Cl)CCC)=O | C17H12Cl3N3O
